US08703165B2
5.5 g 1-Dimethylamino-piperidin-4-one (prepared as described in Journal of Medicinal & Pharmaceutical Chemistry, 4, 423-36; 1961), 4.2 g methylamine hydrochloride and 4.9 ml methylamine solution (40% in water) are mixed in 35 ml water, then to this mixture a solution of 4 g potassium cyanide in 10 ml water is added. The resulting mixture is stirred at room temperature for 3 days, then extracted with ethyl acetate, the organic layer dried over sodium sulfate, and the solvent evaporated. 5.3 g 1-Dimethylamino-4-methylamino-piperidine-4-carbonitrile is obtained. 1H-NMR (CDCl3): 2.86 ppm (m, 2H), 2.57 ppm (m, 2H), 2.44 ppm (s, 3H), 2.32 ppm (s, 6H), 2.00 ppm (m, 2H), 1.69 ppm (m, 2H).

reactant | 1-Dimethylamino-piperidin-4-one | 5.5 g | CN(N1CCC(CC1)=O)C | C7H14N2O
reactant | methylamine hydrochloride | 4.2 g | Cl.CN
reactant | methylamine | 4.9 ml | CN | CH5N
reactant | potassium cyanide | 4 g | [C-]#N.[K+]
solvent | water | 35 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 1-Dimethylamino-4-methylamino-piperidine-4-carbonitrile | 5.3 g | CN(N1CCC(CC1)(C#N)NC)C | C9H18N4
